US05623073
STEP A: 3-Diethylaminomethyl-2,6,7-trimethyl-9-ethylimidazo[1,2-a]benzimidazole
A solution of 1.5 g (6.5 mmol) of 2,6,7-trimethyl-9-ethylimidazo[1,2-a]benzimidazole in 8 ml of ethanol is mixed with 0.6 ml (7.5 mmol) of 40% formaldehyde and diethylamine (0.76 ml, 7.5 mmol). Stir at room temperature. Once the reaction is complete (verified by thin- layer chromatography), evaporate, wash the residue with water, dry, and recrystallise from petroleum ether.

reactant | 2,6,7-trimethyl-9-ethylimidazo[1,2-a]benzimidazole | 6.5 mmol, 1.5 g | CC=1N=C2N(C3=C(N2C1)C=C(C(=C3)C)C)CC | C14H17N3
reactant | formaldehyde | 7.5 mmol, 0.6 ml | C=O | CH2O
reactant | diethylamine | 7.5 mmol, 0.76 ml | C(C)NCC | C4H11N
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 3-Diethylaminomethyl-2,6,7-trimethyl-9-ethylimidazo[1,2-a]benzimidazole | C(C)N(CC)CC1=C(N=C2N(C3=C(N21)C=C(C(=C3)C)C)CC)C | C19H28N4
